US09062028B2
Step F. 7-Bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline
The mixture of 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one (100 mg, 0.420 mmol) and borane tetrahydrofuran complex (5 mL, 5.00 mmol) was heated at 80° C. for 4 h. After this time, MeOH (5 mL) was added slowly to the reaction mixture, followed by 3 mL of conc. HCl. The resulting mixture was heated at 100° C. for 1 h, and then cooled to room temperature. After removing most of the solvent, the mixture was adjusted to a pH of 8-9 by using saturated Na2CO3. The aqueous solution was extracted with EtOAc (2×10 mL). The combined organic layers were concentrated and purified by flash chromatography (0 to 30% ethyl acetate:hexanes) to afford the title compound (78 mg, 83% yield) as an oil. LCMS, [M+H]+=223.9. 1H NMR (400 MHz, CDCl3) δ 8.15 (s, 1H), 7.24 (d, J=7.7 Hz, 1H), 7.00 (t, J=7.7 Hz, 1H), 6.69 (d, J=7.7 Hz, 1H), 2.84 (td, J=8.1, 5.2 Hz, 1H), 2.22-2.13 (m, 1H), 1.76 (td, J=9.2, 4.7 Hz, 1H), 0.75 (dd, J=10.0, 5.0 Hz, 1H).

reactant | 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one | 0.420 mmol, 100 mg | BrC=1C=2C3C(C(NC2C=CC1)=O)C3 | C10H8BrNO
reactant | HCl | 3 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 7-Bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline | 78 mg, 83% yield | BrC=1C=2C3C(CNC2C=CC1)C3 | C10H10BrN
